US06225311B1
Hydrogen chloride gas was bubbled into a solution of 0.104 g (0.192 mmol) of tert-butyl 6-[4({(3S)-3-[(hydroxyamino)carbonyl]-2,2-dimethylthiomorpholinyl}sulfonyl)phenoxy]-4-hexynylcarbamate in 6 mL of dichloromethane and 2 mL of methanol for 5 min, and the reaction was stoppered and let stand for 1h and then concentrated in vacuo. The residue was triturated with ether to provide 0.092 g (100%) of (3S)4({4 [(6-amino-2-hexynyl)oxy]phenyl}sulfonyl)N-hydroxy-2,2-dimethyl-3-thiomorpholine carboxamide as a cream solid. Electrospray Mass Spec: 442.1(N+H)+

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 6-[4({(3S)-3-[(hydroxyamino)carbonyl]-2,2-dimethylthiomorpholinyl}sulfonyl)phenoxy]-4-hexynylcarbamate | 0.192 mmol, 0.104 g | ONC(=O)[C@@H]1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(OCC#CCCCNC(OC(C)(C)C)=O)C=C1 | C24H35N3O7S2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | (3S)4({4 [(6-amino-2-hexynyl)oxy]phenyl}sulfonyl)N-hydroxy-2,2-dimethyl-3-thiomorpholine carboxamide | 0.092 g, 100% | NCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)NO | C19H27N3O5S2
